US05753653
To a solution of 4-phenoxypyridine (6.84 g) in 20 mL of 1,2-dichloroethane at 0° C. was added 8.0 mL of chlorosulfonic acid in a dropwise manner. After 10 min, the ice bath was removed and the solution was allowed to warm to 25° C. After an additional 1 h, the solution was heated to 40° C. for 3 h, and then cooled to 25° C., and oxalyl chloride (4.4 mL) was added. The solution was heated to 50° C. for 16 h, and then an additional 2.2 mL of oxalyl chloride was added. After 5 h more at 50° C., the solution was cooled to 25° C., and poured with rapid stirring into 250 mL of diethyl ether. After 1 min, the solids were allowed to settle and the supernatant was decanted. The residue was suspended in 3:1 toluene:dichloromethane (250 mL) at about 5° C. and 50 mL of 1.6M aqueous K3PO4 was added with stirring. After about 30 seconds, the mixture was transferred to a separatory funnel and the layers were separated. The organic layer was washed with 25 mL of 1N pH 7 phosphate buffer and with 10 mL of brine, and the combined aqueous layers were extraceted with 50 mL of toluene. The combined organic layers were dried over sodium sulfate then filtered through a glass-fiber filter. To the filtrate was immediately added 11 mL of 4M HCl in dioxane and the solution was then concentrated. Partial concentration from dichloromethane:t-butyl methyl ether and filtration gave 2.11 g of 4-((pyrid-4-yl)oxy)benzenesulfonyl chloride hydrochloride.

reactant | 4-phenoxypyridine | 6.84 g | O(C1=CC=CC=C1)C1=CC=NC=C1 | C11H9NO
reactant | chlorosulfonic acid | 8.0 mL | ClS(=O)(=O)O | ClHO3S
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4-((pyrid-4-yl)oxy)benzenesulfonyl chloride hydrochloride | 2.11 g | Cl.N1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | InChI=1S/C11H8ClNO3S.ClH/c12-17(14,15)11-3-1-9(2-4-11)16-10-5-7-13-8-6-10;/h1-8H;1H
